US07495007B2
To a solution of 5-iodosalicylaldehyde (6.68 g, 26.9 mmol) (Aldrich) in N,N-dimethylformamide (150 mL) was added anhydrous K2CO3 (11.17 g, 80.7 mmol), and (2-bromo-ethoxy)-tert-butyl-dimethyl-silane (7.74 g, 32.3 mmol, Aldrich). The reaction mixture was heated at 65° C. for 18 h. The crude was cooled to room temperature, diluted with ethyl acetate, washed with water, brine. The organic layer was separated, dried over MgSO4, concentrated to give 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-iodo-benzaldehyde as a yellow oil (Yield 10 g, 100%).

reactant | 5-iodosalicylaldehyde | 26.9 mmol, 6.68 g | IC1=CC=C(C(C=O)=C1)O | C7H5IO2
reactant | K2CO3 | 80.7 mmol, 11.17 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (2-bromo-ethoxy)-tert-butyl-dimethyl-silane | 32.3 mmol, 7.74 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | N,N-dimethylformamide | 150 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-iodo-benzaldehyde | Yield 10 g, 100% | C(C)(C)(C)[Si](OCCOC1=C(C=O)C=C(C=C1)I)(C)C | C15H23IO3Si
